US05491166
2-Methyl-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid
A solution of 0.364 g (2.07 mmol) of 3-carboxy-1,2,3,4-tetrahydroisoquinoline in 25 mL of formic acid was combined with 2.5 mL of 37% formaldehyde. The resulting mixture was allowed to reflux for approximately 17 hours. After cooling, the mixture was contentrated under reduced pressure to provide a gum. This gum was dissolved in 3.0 mL of water, adjusted to a pH 2 using hydrochloric acid and then purified using ion-exchange chromatography (Dowex 50x-8, 100 meshcation) to provide 0.21 g of a yellow powder.

reactant | 3-carboxy-1,2,3,4-tetrahydroisoquinoline | 2.07 mmol, 0.364 g | C(=O)(O)C1NCC2=CC=CC=C2C1 | C10H11NO2
reactant | formaldehyde | 2.5 mL | C=O | CH2O
reactant | hydrochloric acid | Cl | ClH
solvent | formic acid | 25 mL | C(=O)O | CH2O2
solvent | water | 3.0 mL | O | H2O
product | 2-Methyl-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid | 0.21 g, Yield: 53% | CN1CC2=CC=CC=C2CC1C(=O)O | C11H13NO2
